US07790898B2
1-benzyl-3-(3-hydroxy-phenyl)-piperidine-3-ol
8.64 g of 1-benzyl-3-[3-(tetrahydropyrane-2-yloxy)-phenyl]-piperidine-3-ol were dissolved in 30 ml of ethanol and 8.9 ml of HCl were added. The solvent was removed after stirring the mixture for 60 hours. Yield 6 g

reactant | 1-benzyl-3-[3-(tetrahydropyrane-2-yloxy)-phenyl]-piperidine-3-ol | 8.64 g | C(C1=CC=CC=C1)N1CC(CCC1)(O)C1=CC(=CC=C1)OC1OCCCC1 | C23H29NO3
reactant | HCl | 8.9 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-benzyl-3-(3-hydroxy-phenyl)-piperidine-3-ol | C(C1=CC=CC=C1)N1CC(CCC1)(O)C1=CC(=CC=C1)O | C18H21NO2
